US08133907B2
N-Isopropyl-2-methyl-nicotinamide
To a solution of 2-methyl nicotinic acid (2.5 g, 18 mmol), HOBT (3.7 g, 27 mmol), isopropylamine (3.1 mL, 36 mmol), and triethylamine (7.5 mL, 54 mmol) in 150 mL of DMF is added EDC (5.2 g, 27 mmol). The reaction is allowed to stir at room temperature for 24 hours and is then concentrated under reduced pressure. Ethyl acetate and brine is added and the layers are separated. The organic layer is dried over sodium sulfate, filtered, and concentrated under reduced pressure. Purification of the crude residue by silica gel flash column chromatography gives the title compound.

reactant | 2-methyl nicotinic acid | 18 mmol, 2.5 g | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
reactant | HOBT | 27 mmol, 3.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | isopropylamine | 36 mmol, 3.1 mL | C(C)(C)N | C3H9N
reactant | triethylamine | 54 mmol, 7.5 mL | C(C)N(CC)CC | C6H15N
reactant | EDC | 27 mmol, 5.2 g
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | N-Isopropyl-2-methyl-nicotinamide | C(C)(C)NC(C1=C(N=CC=C1)C)=O | C10H14N2O
